US04061647
4-(5-Benzylsulfamoyl-2,4-dichloro-phenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide
2,2 g of 5'-benzylsulfamoyl-2-bromo-2',4'dichloro-acetophenone were reacted in a manner analogous to the method described in Example 10 with 0.5 g of 1,3-dimethyl-thiourea. M.p. 201° C (decomposition).

reactant | 5'-benzylsulfamoyl-2-bromo-2',4'dichloro-acetophenone | 2,2 g | C(C1=CC=CC=C1)NS(=O)(=O)C=1C(=CC(=C(C1)C(CBr)=O)Cl)Cl | C15H12BrCl2NO3S
reactant | 1,3-dimethyl-thiourea | 0.5 g | CNC(=S)NC | C3H8N2S
product | 4-(5-Benzylsulfamoyl-2,4-dichloro-phenyl)-3-methyl-2-methylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C1=CC=CC=C1)NS(=O)(=O)C=1C(=CC(=C(C1)C1(N(C(SC1)=NC)C)O)Cl)Cl | InChI=1S/C18H19Cl2N3O3S2.BrH/c1-21-17-23(2)18(24,11-27-17)13-8-16(15(20)9-14(13)19)28(25,26)22-10-12-6-4-3-5-7-12;/h3-9,22,24H,10-11H2,1-2H3;1H
